US07943607B2
4-Benzyl-8,9-difluoro-3,4-dihydro-1,4-benzoxazepin-5(2H)-one
Sodium hydride (25 mg, 0.615 mmol, 60% dispersion in mineral oil) was added slowly to a solution of N-benzyl-2,3,4-trifluoro-N-(2-hydroxyethyl)benzamide (190 mg, 0.615 mmol) in DMF (3 mL) and the pale yellow solution was stirred at RT for 16 hours. Water was added to the reaction and the mixture was subsequently extracted with DCM (4×30 mL). The combined organic phases were washed with water (3×20 mL) and saturated brine solution then dried (MgSO4), filtered and evaporated to give the desired product as a colourless oil (130 mg). 1H NMR δ (CDCl3): 3.5 (t, 2H), 4.3 (t, 2H), 4.8 (s, 2H), 6.92 (dd, 1H), 7.3-7.4 (m, 5H), 7.7 (m, 1H)

reactant | Sodium hydride | 0.615 mmol, 25 mg | [H-].[Na+]
reactant | N-benzyl-2,3,4-trifluoro-N-(2-hydroxyethyl)benzamide | 0.615 mmol, 190 mg | C(C1=CC=CC=C1)N(C(C1=C(C(=C(C=C1)F)F)F)=O)CCO | C16H14F3NO2
reactant | Water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-Benzyl-8,9-difluoro-3,4-dihydro-1,4-benzoxazepin-5(2H)-one | 130 mg | C(C1=CC=CC=C1)N1CCOC2=C(C1=O)C=CC(=C2F)F | C16H13F2NO2
